US04666923
(c) 5-Amino-3,3-dimethylindolin-2-one
A suspension of 100 g. (0.48 mol) 5-nitroindolin-2-one in 2500 ml. methanol with 200 ml. glacial acetic acid is hydrogenated, while stirring well, at 40° C. in the presence of 10 g. of 10% Pd/C. The subsequently clear solution is freed from catalyst by suction filtration and the filtrate is evaporated. Yield: 82 g. (96% of theory); m.p. 185°-191° C. (HCl-salt from methanol).

reactant | 5-nitroindolin-2-one | 0.48 mol | [N+](=O)([O-])C=1C=C2CC(NC2=CC1)=O | C8H6N2O3
reactant | methanol | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H12N2O
